US05814407
Synthesis of N-(β-D-glucopyranosyl)-N-octylacrylamide: "acrylamidosugar" AC8
62.5 mmol (6.63 g) of sodium carbonate are added to 24 mmol (7 g) of N-octyl-β-D-glucopyranosylamine in 100 ml of methanol at 30° C.; 48 mmol (3.9 ml) of acryloyl chloride are run in at 0° C. over 5 minutes into the heterogeneous mixture. The reaction mixture is left at ambient temperature with stirring for 25 minutes. After addition of 100 ml of water and evaporation of the methanol the acrylamidosugar is extracted with 300 ml of ethyl acetate. The organic phase is washed with a saturated solution of NaHCO3. dried over MgSO4 and evaporated at reduced pressure.

reactant | sodium carbonate | 62.5 mmol, 6.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-octyl-β-D-glucopyranosylamine | 24 mmol, 7 g | C(CCCCCCC)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H29NO5
reactant | acryloyl chloride | 48 mmol, 3.9 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | N-(β-D-glucopyranosyl)-N-octylacrylamide | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N(C(C=C)=O)CCCCCCCC | C17H31NO6
